US04486586
Diphenylmethyl 7-[(Z)-2-propargyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VII-7]
A mixture of diphenylmethyl 3-chloromethyl-7-[(Z)-2-propargyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (VI-7) (2.0 g, 2.3 mmoles) and NaI (1.04 g, 6.9 mmoles) in acetone (40 mL) was stirred for 1 hour. The mixture was filtered and the filtrate was poured into water and extracted with ethyl acetate. The organic layer was washed with 5% aqueous Na2S2O3, water and a saturated aqueous NaCl, successively. It was then dried over MgSO4 and evaporated to give 2.2 g (98%) of the title compound [VII-7].

reactant | diphenylmethyl 3-chloromethyl-7-[(Z)-2-propargyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 2.3 mmoles, 2.0 g | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC#C)=O)=O | C48H38ClN5O5S2
reactant | NaI | 6.9 mmoles, 1.04 g | [Na+].[I-]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | Diphenylmethyl 7-[(Z)-2-propargyloxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 2.2 g, 98% | C(C#C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H38IN5O5S2
